US08293869B2
C. Preparation of 9-hydroxymethyl-2,7-di(Boc-amino)fluorene
9-Formyl-2,7-di(Boc-amino)fluorene (0.47 g, 1.1 mmol) was dissolved in anhydrous methanol (MeOH) (5 mL) under an argon atmosphere. NaBH4 (1.2 eq, 1.3 mmol, 0.05 g) was added and the reaction was stirred at room temperature for five hours. The reaction was diluted with deionized water and acidified to pH 5 with glacial acetic acid. The reaction was extracted with ethyl acetate (2×100 mL) and the organic layers were washed with saturated NaHCO3 (4×20 mL) and brine (3×20 mL). The organic layers were dried over MgSO4, filtered and evaporated. The crude product, orange solid, was purified by flash chromatography: silica gel 60 Å gradient elution 1-5% methanol in chloroform (alternative gradient elution with 15-20% ethyl acetate in dichloromethane). Product was a yellow solid (0.39, 83%). 1H-NMR (CD3OD): δ (ppm) 7.9 (s, 0.5H, NH urethane); 7.7 (s, 2H, Ar); 7.6 (d, 2H, Ar); 7.4 (d, 2H, Ar); 4.0 (m, 1H, CH); 3.9 (m, 2H, CH2); 1.6 (s, 18H, Boc).

reactant | 9-Formyl-2,7-di(Boc-amino)fluorene | 1.1 mmol, 0.47 g | C(=O)C1C2=CC(=CC=C2C=2C=CC(=CC12)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C24H28N2O5
reactant | NaBH4 | 1.3 mmol, 0.05 g, 1.2 eq | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 9-hydroxymethyl-2,7-di(Boc-amino)fluorene | OCC1C2=CC(=CC=C2C=2C=CC(=CC12)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C24H30N2O5
